US07538101B2
Step 3: 5-Hydroxy-1-isopropyl-1H-indole-2-carboxylic acid
A mixture of 5-benzyloxy-1-isopropyl-1H-indole-2-carboxylic acid (41.6 g, 1.0 eq.) and palladium on activated charcoal (10% m:m, 4.3 g, 0.03 eq.) in ethyl acetate (330 mL) and ethanol (235 mL) was flushed with hydrogen, then vigorously stirred for 2 h30 at room temperature. The resulting back suspension was filtered through a dicalite pad. The pad was washed with a mixture of ethyl acetate and ethanol then the liquor was evaporated in vacuo to yield 26.3 g (quant.) of the desired product as off-white oil. MS (m/e): 218.2 (M−H, 100%).

reactant | 5-benzyloxy-1-isopropyl-1H-indole-2-carboxylic acid | 41.6 g, 1.0 eq. | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O | C19H19NO3
catalyst | palladium on activated charcoal | 4.3 g, 0.03 eq. | [Pd] | Pd
solvent | ethyl acetate | 330 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 235 mL | C(C)O | C2H6O
product | 5-Hydroxy-1-isopropyl-1H-indole-2-carboxylic acid | OC=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O | C12H13NO3
